US06211242B1
To a mixture of 4-(4′-methylbiphenyl-2-carboxamido)-N-methyl-N-[2-(formylmethoxy)phenyl]benzamide (400 mg) and 4-methyl-1-(N-methylamino)methylcarbonylpiperazine (143 mg) in a mixture of methanol (15 ml) and acetic acid (0.5 ml) was added sodium cyanoborohydride (52.4 mg) and the mixture was stirred at ambient temperature for 4 hours. The solution was diluted with ethyl acetate (30 ml) and washed successively with saturated aqueous sodium hydrogen carbonate, water and brine. The organic solution was dried over magnesium sulfate and the solvent was evaporated in vacuo. The residue was purified by silica gel column (chloroform:methanol:conc. ammonia=10:1:0.1) to give 4-(4′-methylbiphenyl-2-carboxamido)-N-methyl-N-[2-[2-[N-methyl-N-(4-methylpiperazin-1-yl)carbonylmethylamino]ethoxy]phenyl]benzamide (310 mg) as a colorless amorphous.

reactant | 4-(4′-methylbiphenyl-2-carboxamido)-N-methyl-N-[2-(formylmethoxy)phenyl]benzamide | 400 mg | CC1=CC=C(C=C1)C=1C(=CC=CC1)C(=O)NC1=CC=C(C(=O)N(C2=C(C=CC=C2)OCC=O)C)C=C1 | C30H26N2O4
reactant | 4-methyl-1-(N-methylamino)methylcarbonylpiperazine | 143 mg | CN1CCN(CC1)C(=O)CNC | C8H17N3O
reactant | sodium cyanoborohydride | 52.4 mg | C(#N)[BH3-].[Na+]
solvent | methanol | 15 ml | CO | CH4O
solvent | acetic acid | 0.5 ml | C(C)(=O)O | C2H4O2
solvent | ethyl acetate | 30 ml | C(C)(=O)OCC | C4H8O2
product | 4-(4′-methylbiphenyl-2-carboxamido)-N-methyl-N-[2-[2-[N-methyl-N-(4-methylpiperazin-1-yl)carbonylmethylamino]ethoxy]phenyl]benzamide | 310 mg | CC1=CC=C(C=C1)C=1C(=CC=CC1)C(=O)NC1=CC=C(C(=O)N(C2=C(C=CC=C2)OCCN(CC(=O)N2CCN(CC2)C)C)C)C=C1 | C38H43N5O4
